US08710043B2
Magnesium metal (0.200 g, 8.23 mmol) was activated using a crystal of iodine followed by the addition of THF (4 mL). 1-Bromo-4-(diethoxymethyl)-benzene (2.0 g, 7.72 mmol) was added and the mixture allowed to sit without stirring for 5 minutes. Gas evolution was observed and the colour of the iodine mostly disappeared. Stirring was then initiated and additional dry THF (20 mL) was added. After stirring for 2 hours, the mixture was allowed to settle. The supernatant was added to a solution of (S,E)-2-methyl-N-((3-(trifluoromethyl)-pyridin-2-yl)methylene)propane-2-sulfinamide (0.450 g, 1.617 mmol) in dry THF (10 mL). The resulting reaction mixture was stirred overnight. Saturated aqueous NH4Cl (10 mL) was added followed by H2O (80 mL) and EtOAc (100 mL). The phases were mixed and separated. The organic layer was dried with MgSO4 and evaporated to dryness under reduced pressure. The acetal was further dried under high vacuum. The acetal was dissolved in EtOAc (50 mL) and treated with 50% TFA in H2O (50 mL). The solution was stirred vigorously for 20 minutes. Water (200 mL), EtOAc (100 mL), and Et2O (100 mL) were then added and the phases separated. The aqueous layer was removed, and the organic layer was washed with additional H2O (2×200 mL). The organic layer was then washed with saturated aqueous NaHCO3 (3×100 mL, strong gas evolution) followed by H2O (100 mL) and finally brine (100 mL). The organic layer was dried with MgSO4 and evaporated to dryness under reduced pressure. Purification using silica chromatography (hexane to EtOAc gradient) gave the desired (S)—N—((S)-(4-formylphenyl)(3-(trifluoromethyl)pyridin-2-yl)methyl)-2-methylpropane-2-sulfinamide as an oil.

reactant | Magnesium | 8.23 mmol, 0.200 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-Bromo-4-(diethoxymethyl)-benzene | 7.72 mmol, 2.0 g | BrC1=CC=C(C=C1)C(OCC)OCC | C11H15BrO2
reactant | (S,E)-2-methyl-N-((3-(trifluoromethyl)-pyridin-2-yl)methylene)propane-2-sulfinamide | 1.617 mmol, 0.450 g | CC(C)(C)[S@](=O)/N=C/C1=NC=CC=C1C(F)(F)F | C11H13F3N2OS
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 80 mL | O | H2O
product | (S)—N—((S)-(4-formylphenyl)(3-(trifluoromethyl)pyridin-2-yl)methyl)-2-methylpropane-2-sulfinamide | C(=O)C1=CC=C(C=C1)[C@H](N[S@@](=O)C(C)(C)C)C1=NC=CC=C1C(F)(F)F | C18H19F3N2O2S
